US04847294
Isopropyl 2-[N-(2-Dimethylaminoethyl)aminosulfonyl]-6-nitrobenzoate Hydrochloride
A solution of methyl 2-[N-(2-dimethylaminoethyl)aminosulfonyl]-6-nitrobenzoate hydrochloride (12.0 g, 32.6 mmol) in dry isopropanol (500 mL) containing sodium isopropoxide (39 mmol) was stirred at reflux under N2 for 18 hours. After adding glacial acetic acid (1 mL) and concentrating under reduced pressure, the residue was partitioned between ethyl acetate and water. The ethyl acetate extract was washed with a saturated aqueous solution of sodium chloride, dried (Na2SO4), filtered and concentrated. The residue was converted to the hydrochloride salt with ethanolic anhydrous hydrogen chloride and recrystallized from methanol - ethyl acetate to give 4.0 g (31%) of product, m.p. 187.0-190.0° dec. Anal Calc'd for C14H21N3O6S.HCl: C, 42.47; H, 5.60; N, 10.61

reactant | methyl 2-[N-(2-dimethylaminoethyl)aminosulfonyl]-6-nitrobenzoate hydrochloride | 32.6 mmol, 12.0 g | Cl.CN(CCNS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-])C
reactant | sodium isopropoxide | 39 mmol | CC([O-])C.[Na+]
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | isopropanol | 500 mL | C(C)(C)O | C3H8O
product | Isopropyl 2-[N-(2-Dimethylaminoethyl)aminosulfonyl]-6-nitrobenzoate Hydrochloride | 4.0 g, 31% | Cl.CN(CCNS(=O)(=O)C1=C(C(=O)OC(C)C)C(=CC=C1)[N+](=O)[O-])C | InChI=1S/C14H21N3O6S.ClH/c1-10(2)23-14(18)13-11(17(19)20)6-5-7-12(13)24(21,22)15-8-9-16(3)4;/h5-7,10,15H,8-9H2,1-4H3;1H
